US07834049B2
3-Chloro-N-(3-formyl-1H-indole-7-yl)benzenesulfonamide
1.3 ml (13.9 mmol) of phosphorous oxychloride was added dropwise to 14.5 ml of dimethylformamide at 10° C. or less under stirring in nitrogen atmosphere. After stirring at about 5° C. for 30 minutes, 2.50 g (8.15 mmol) of 3-chloro-N-(1H-indole-7-yl)benzenesulfonamide synthesized in the same manner as in Example 1 was added thereto in three portions. After stirring at about 5° C. for further 30 minutes, 200 ml of cooled water was added thereto. The reaction mixture was adjusted to pH about 14 by adding a 1N aqueous sodium hydroxide and then to pH about 2 by adding 1N hydrochloric acid, and then extracted by adding ethyl acetate thereto. The organic layer was washed with brine, dried over magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography, to give 1.45 g of the title compound.

reactant | phosphorous oxychloride | 13.9 mmol, 1.3 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-chloro-N-(1H-indole-7-yl)benzenesulfonamide | 8.15 mmol, 2.50 g | ClC=1C=C(C=CC1)S(=O)(=O)NC=1C=CC=C2C=CNC12 | C14H11ClN2O2S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | dimethylformamide | 14.5 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | 3-Chloro-N-(3-formyl-1H-indole-7-yl)benzenesulfonamide | 1.45 g | ClC=1C=C(C=CC1)S(=O)(=O)NC=1C=CC=C2C(=CNC12)C=O | C15H11ClN2O3S
